datasets/RMG-dataset.csv
rxn,Ea
[C:0](#[C:1][C:2]([H:4])[H:5])[H:3].[C:6]1([H:14])([H:15])[C:7]([H:16])([H:17])[C:8]2([H:18])[C:9]([H:19])([H:20])[C:10]([H:21])([H:22])[C:11]([H:23])([H:24])[C:12]2([H:25])[C:13]1([H:26])[H:27]>>[C:0](#[C:1][C:2]([H:4])([H:5])[H:18])[H:3].[C:6]1([H:14])([H:15])[C:7]([H:16])([H:17])[C:8]2[C:9]([H:19])([H:20])[C:10]([H:21])([H:22])[C:11]([H:23])([H:24])[C:12]2([H:25])[C:13]1([H:26])[H:27],61.0864
[C:0]([C:1]([C:2]([C:3]([C:4]([C:5](=[C:6]([H:18])[H:19])[H:17])=[C:7]([C:8]([H:21])([H:22])[H:23])[H:20])([H:15])[H:16])([H:13])[H:14])([H:11])[H:12])([H:9])[H:10]>>[C:0]1([H:9])([H:10])[C:1]([H:11])([H:12])[C:2]([H:13])([H:14])[C:3]([H:15])([H:16])[C:4]([C:5](=[C:6]([H:18])[H:19])[H:17])[C:7]1([C:8]([H:21])([H:22])[H:23])[H:20],27.6981
[C:0]([C:1]([C:2]([C:3]([C:4]([C:5](=[C:6]([C:7]([H:20])([H:21])[H:22])[C:8]([H:23])([H:24])[H:25])[H:19])([H:17])[H:18])([H:15])[H:16])([H:13])[H:14])([H:11])[H:12])([H:9])[H:10]>>[C:0]1([H:9])([H:10])[C:1]([H:11])([H:12])[C:2]([H:13])([H:14])[C:3]([H:15])([H:16])[C:4]([H:17])([H:18])[C:5]1([C:6]([C:7]([H:20])([H:21])[H:22])[C:8]([H:23])([H:24])[H:25])[H:19],34.9364
[C:0]([C:1]([C:2]([C:3]([C:4]([C:5]([C:6]([C:7]([H:23])([H:24])[H:25])([H:21])[H:22])([H:19])[H:20])([H:17])[H:18])([H:15])[H:16])([H:13])[H:14])([H:11])[H:12])([H:8])([H:9])[H:10].[O:26][O:27]>>[C:0]([C:1]([C:2]([C:3]([C:4]([C:5]([C:6]([C:7]([H:23])([H:24])[H:25])([H:21])[H:22])([H:19])[H:20])([H:17])[H:18])([H:15])[H:16])([H:13])[H:14])([H:11])[H:12])([H:9])[H:10].[H:8][O:26][O:27],213.09112
[C:0](=[C:1]([C:2]([S:3][H:9])([H:7])[H:8])[H:6])([H:4])[H:5].[C:10]([C:11](=[C:12]([H:16])[H:17])[H:15])([H:13])[H:14]>>[C:0](=[C:1]([C:2]([S:3][H:9])[H:8])[H:6])([H:4])[H:5].[H:7][C:10]([C:11](=[C:12]([H:16])[H:17])[H:15])([H:13])[H:14],38.9112
[C:0]([C:1](=[C:2]([C:3]([C:4]([C:5]([C:6]([C:7]([C:8]([H:23])([H:24])[H:25])[C:9]([H:26])([H:27])[H:28])([H:21])[H:22])([H:19])[H:20])([H:17])[H:18])([H:15])[H:16])[H:14])[H:13])([H:10])([H:11])[H:12]>>[C:0]([C:1]([C:2]1([H:14])[C:3]([H:15])([H:16])[C:4]([H:17])([H:18])[C:5]([H:19])([H:20])[C:6]([H:21])([H:22])[C:7]1([C:8]([H:23])([H:24])[H:25])[C:9]([H:26])([H:27])[H:28])[H:13])([H:10])([H:11])[H:12],35.1874
[C:0](=[C:1]=[C:2]([C:3]([H:12])([H:13])[H:14])[c:4]1[c:5]([H:15])[c:6]([H:16])[c:7]([H:17])[c:8]([H:18])[c:9]1[H:19])([H:10])[H:11].[C:20](=[C:21]([H:23])[H:24])[H:22]>>[C:0](=[C:1][C:2]([C:3]([H:12])([H:13])[H:14])([c:4]1[c:5]([H:15])[c:6]([H:16])[c:7]([H:17])[c:8]([H:18])[c:9]1[H:19])[C:20](=[C:21]([H:23])[H:24])[H:22])([H:10])[H:11],27.0705
[C:0]([C:1]([C:2]([H:9])([H:10])[H:11])([C:3]([H:12])([H:13])[H:14])[O:4][O:5])([H:6])([H:7])[H:8].[C:15]([C:16]([C:17]([H:23])([H:24])[H:25])([H:21])[H:22])([H:18])([H:19])[H:20]>>[C:0]([C:1]([C:2]([H:9])([H:10])[H:11])([C:3]([H:12])([H:13])[H:14])[O:4][O:5][H:21])([H:6])([H:7])[H:8].[C:15]([C:16]([C:17]([H:23])([H:24])[H:25])[H:22])([H:18])([H:19])[H:20],71.128
[C:0](=[C:1][S:2][H:5])([H:3])[H:4].[C:6]([C:7]([C:8]([H:19])([H:20])[H:21])([c:9]1[c:10]([H:22])[c:11]([H:23])[c:12]([H:24])[c:13]([H:25])[c:14]1[H:26])[H:18])([H:15])([H:16])[H:17]>>[C:0](=[C:1]([S:2][H:5])[H:18])([H:3])[H:4].[C:6]([C:7]([C:8]([H:19])([H:20])[H:21])[c:9]1[c:10]([H:22])[c:11]([H:23])[c:12]([H:24])[c:13]([H:25])[c:14]1[H:26])([H:15])([H:16])[H:17],-35.564
[C:0](#[C:1][C:2](=[C:3]([H:6])[H:7])[H:5])[H:4].[C:8](=[C:9]([H:11])[H:12])[H:10]>>[C:0](#[C:1][C:2]=[C:3]([H:6])[H:7])[H:4].[H:5][C:8](=[C:9]([H:11])[H:12])[H:10],5.8576
[C:0]([C:1]([C:2]([C:3]([H:10])([H:11])[H:12])=[O:4])([H:8])[H:9])([H:5])([H:6])[H:7].[C:13]([O:14][O:15])([H:16])([H:17])[H:18]>>[C:0]([C:1]([C:2]([C:3]([H:10])([H:11])[H:12])=[O:4])[H:9])([H:5])([H:6])[H:7].[H:8][O:15][O:14][C:13]([H:16])([H:17])[H:18],63.806
[C:0](=[C:1]1[C:2]([H:9])[C:3]([H:10])=[C:4]([H:11])[C:5]([H:12])=[C:6]1[H:13])([H:7])[H:8]>>[C:0](=[C:1]1[C:2]2([H:9])[C:3]([H:10])=[C:4]([H:11])[C:5]([H:12])[C:6]12[H:13])([H:7])[H:8],255.224
[C:0]([C:1]([O:2])([H:6])[H:7])([H:3])([H:4])[H:5]>>[C:0]([C:1]([O:2][H:6])[H:7])([H:3])([H:4])[H:5],113.972
[C:0](#[C:1][C:2](=[C:3]([H:6])[H:7])[H:5])[H:4].[C:8](=[C:9]([C:10]([C:11](=[C:12]([H:18])[H:19])[H:17])[H:16])[H:15])([H:13])[H:14]>>[C:0](#[C:1][C:2]([C:3]([H:6])([H:7])[C:10]([C:9](=[C:8]([H:13])[H:14])[H:15])([C:11](=[C:12]([H:18])[H:19])[H:17])[H:16])[H:5])[H:4],55.2288
[C:0]([C:1]([C:2]([C:3]([H:10])([H:11])[H:12])([H:8])[H:9])[H:7])([H:4])([H:5])[H:6].[O:13][H:14]>>[C:0](=[C:1]([C:2]([C:3]([H:10])([H:11])[H:12])([H:8])[H:9])[H:7])([H:5])[H:6].[H:4][O:13][H:14],0.0
[O:0]=[C:1]([c:2]1[c:3]([H:9])[c:4]([H:10])[c:5]([H:11])[c:6]([H:12])[c:7]1[H:13])[H:8].[O:14][H:15]>>[H:8][O:14][H:15].[O:0]=[C:1][c:2]1[c:3]([H:9])[c:4]([H:10])[c:5]([H:11])[c:6]([H:12])[c:7]1[H:13],-4.64424
[N:4]([H:5])[H:6].[O:0]=[N:1][O:2][H:3]>>[H:3][N:4]([H:5])[H:6].[O:0]=[N:1][O:2],-20.66896
